US06894061B2
2-Bromo-6-ethyl-5-[(4-methoxy-3-methylphenyl)sulfonyl]-5,6-dihydrophenanthridin
The title compound was prepared from 6-ethyl-5-[(4-methoxy-3-methylphenyl)sulfonyl]-5,6-dihydrophenanthridine and excess bromine according to the procedure and in the same manner as described in Example 19, step a and yielded, after crystallization from a mixture of ethyl acetate-hexane, 2-bromo-6-ethyl-5-[(4-methoxy-3-methylphenyl)sulfonyl]-5,6-dihydrophenanthridine as a colorless, crystalline, solid, which was characterized by LCMS (ES+, FA, CV=5) and 1H NMR;

reactant | 6-ethyl-5-[(4-methoxy-3-methylphenyl)sulfonyl]-5,6-dihydrophenanthridine | C(C)C1N(C=2C=CC=CC2C2=CC=CC=C12)S(=O)(=O)C1=CC(=C(C=C1)OC)C | C23H23NO3S
reactant | bromine | BrBr | Br2
product | 2-Bromo-6-ethyl-5-[(4-methoxy-3-methylphenyl)sulfonyl]-5,6-dihydrophenanthridin | BrC1=CC=2C3=CC=CC=C3C(N(C2C=C1)S(=O)(=O)C1=CC(=C(C=C1)OC)C)CC | C23H22BrNO3S
